US06506772B1
(2,6-Diamino-pyridin-4-yl)-(4-fluoro-phenyl)-methanone
To a solution of 0.5 g (1.78 mmol) 2,6-bis-acetylamino-N-methoxy-N-methyl-isonicotinamide in 8 ml THF was added at room temperature 7.14 ml (7.14 mmol) of a 1M solution of 4-fluorophenylmagnesium bromide in THF and stirred for 80 min at room temperature and subsequently for 2 h at 40° C. After cooling to room temperature 0.8 ml 37% HCl was added and the mixture was evaporated to dryness. The residue was taken up in ethyl acetate and 2M Na2CO3. The aqueous phase was extracted with ethyl acetate and the combined organic fraction were dried with MgSO4 and evaporated to dryness. The residue was taken up in 3 ml MeOH and 1 ml 37% HCl and heated to reflux for 4 h. After evaporation to dryness the residue was taken up in ethyl acetate and 2M Na2CO3. The aqueous phase was extracted with ethyl acetate and the combined organic fraction were dried with MgSO4 and evaporated to dryness. The title compound was further purified by reversed phase HPLC eluting with an acetonitrile/water gradient and yielded 131 mg (32%) yellow crystals.

reactant | 2,6-bis-acetylamino-N-methoxy-N-methyl-isonicotinamide | 1.78 mmol, 0.5 g | C(C)(=O)NC=1C=C(C(=O)N(C)OC)C=C(N1)NC(C)=O | C12H16N4O4
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | HCl | 0.8 ml | Cl | ClH
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (2,6-Diamino-pyridin-4-yl)-(4-fluoro-phenyl)-methanone | 131 mg, 32% | NC1=NC(=CC(=C1)C(=O)C1=CC=C(C=C1)F)N | C12H10FN3O
